US07351700B2
4-Cyclopropyl-6-diethoxymethyl-2-hexylsulfanyl-pyrimidine
Cyclopropyl-4,4-diethoxy-but-2-yn-1-one (2 g, 10 mmol) and 2-hexyl-isothiourea hydrobromide (2.7 g, 11.2 mmol) were dissolved under nitrogen in THF (20 mL). Then triethylamine (3.1 mL, 22.4 mmol) was added slowly. The reaction was slightly exothermic (28° C.). The suspension was stirred for 5 h at 20° C. The product was extracted with AcOEt, sat. NH4Cl solution, dried and concentrated. The residue was purified by silica gel chromatography in heptane/ethyl acetate 95:5. One obtained 2.86 g (83%) of a colorless oil. MS: m/z=339 (M+H).

reactant | Cyclopropyl-4,4-diethoxy-but-2-yn-1-one | 10 mmol, 2 g | C1(CC1)C(C#CC(OCC)OCC)=O | C11H16O3
reactant | 2-hexyl-isothiourea hydrobromide | 11.2 mmol, 2.7 g | Br.C(CCCCC)SC(N)=N
reactant | triethylamine | 22.4 mmol, 3.1 mL | C(C)N(CC)CC | C6H15N
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 4-Cyclopropyl-6-diethoxymethyl-2-hexylsulfanyl-pyrimidine | 2.86 g, 83% | C1(CC1)C1=NC(=NC(=C1)C(OCC)OCC)SCCCCCC | C18H30N2O2S
